US04059433
A mixture of 111 g of 3-amino-2-cyano-3-propoxypropene-thioamide in 250 ml of ethanol was heated to reflux. To this stirred mixture was added 20.4 g of 30% hydrogen peroxide, at such a rate as to maintain a uniform rate of reflux. After complete addition, the reaction mixture was heated under reflux for 20 minutes. A quantity of activated charcoal was added to the reaction mixture. The reaction mixture was filtered hot and allowed to cool. The filtrate was poured into 1500 ml of water, and the solid precipitate was collected by filtration. The dried solid was recrystallized from toluene, to give 104.5 g of 5-amino-4-cyano-3-propoxyisothiazole, m.p. 122°-125°.

reactant | 3-amino-2-cyano-3-propoxypropene-thioamide | 111 g | NC(=C(C(N)=S)C#N)OCCC | C7H11N3OS
reactant | hydrogen peroxide | 20.4 g | OO | H2O2
reactant | charcoal | C | CH4
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 5-amino-4-cyano-3-propoxyisothiazole | 104.5 g | NC1=C(C(=NS1)OCCC)C#N | C7H9N3OS
